US05071468
1g of 2-acetylamino-3-nitrophenol was mixed with an aqueous solution of sodium hydroxide (0.21g of NaOH in 5ml H2O) with stirring. 5ml of ethanol was added to the deep red solution formed and then 0.64ml of 2-bromoethyl ethyl ether added and the reaction mixture stirred for 1 hour at room temperature and refluxed overnight. After cooling 5ml of 2M sodium hydroxide was added to the mixture to increase the pH to pH 12. Then extraction with 2×15ml of dichoromethane was carried out, the combined dichloromethane extracts dried over sodium sulphate, the solvent evaporated off and the product purified by recrystallisation from ethanol/hexane/dioxan to leave 1.0g of 2-acetyl-3-nitrophenyl (2-ethoxyethyl) ether as a fine yellow solid.

reactant | 2-acetylamino-3-nitrophenol | C(C)(=O)NC1=C(C=CC=C1[N+](=O)[O-])O | C8H8N2O4
reactant | sodium hydroxide | 5ml, 0.21g | [OH-].[Na+]
reactant | 2-bromoethyl ethyl ether | 0.64ml | C(C)OCCBr | C4H9BrO
reactant | sodium hydroxide | 2M, 5ml | [OH-].[Na+]
reactant | ethanol | 5ml | C(C)O | C2H6O
product | 2-acetyl-3-nitrophenyl (2-ethoxyethyl) ether | 1.0g | C(C)OCCOC1=C(C(=CC=C1)[N+](=O)[O-])C(C)=O | C12H15NO5
